US08664258B2
Preparation of {2-[4-(3-Methoxy-benzoylamino)-2-(2-methyl-2H-pyrazol-3-yl)-phenoxy]-ethyl}-carbamic acid 2-chloro-ethyl ester (Compound 341)
To a solution of N-(4-(2-aminoethoxy)-3-(1-methyl-1H-pyrazol-5-yl)phenyl)-3-methoxybenzamide (0.5000 g, 1.365 mmol) and N,N-Diisopropylethylamine (0.2383 mL, 1.365 mmol) in 1 mL of was added dropwise, 2-Chloroethyl chloroformate (0.1951 g, 1.365 mmol). The reaction mixture was stirred overnight at ambient temperature. Ethanol was removed under vacuum and the crude was purified by preparative LCMS (m/z=472). The proper fractions were collected and lyophilized to afford the title compound as an off-white solid in 38% yield. LCMS m/z (%)=472 (M+H 35Cl, 100), 474 (M+H 37Cl, 40). 1H NMR (400 MHz, CDCl3) δ 8.16 (s, 1H), 7.71 (d, J=2.16 Hz, 1H), 7.68 (d, J=2.01 Hz, 1H), 7.45-7.34 (m, 3H), 7.08 (d, J=8.08 Hz, 1H), 6.98 (d, J=8.08 Hz, 1H), 6.31 (bs, 1H), 7.19-7.13, (m, 2H), 5.18 (bt, J=5.80 Hz, 1H), 4.28 (t, J=6.01 Hz, 2H), 4.03 (t, J=4.80 Hz, 2H), 3.85 (s, 3H), 3.78 (s, 3H), 3.65 (t, J1=5.80 Hz, 2H), 3.45 (q, J=11.10 Hz, 2H).

reactant | N-(4-(2-aminoethoxy)-3-(1-methyl-1H-pyrazol-5-yl)phenyl)-3-methoxybenzamide | 1.365 mmol, 0.5000 g | NCCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)OC)=O)C1=CC=NN1C | C20H22N4O3
reactant | N,N-Diisopropylethylamine | 1.365 mmol, 0.2383 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-Chloroethyl chloroformate | 1.365 mmol, 0.1951 g | ClC(=O)OCCCl | C3H4Cl2O2
product | {2-[4-(3-Methoxy-benzoylamino)-2-(2-methyl-2H-pyrazol-3-yl)-phenoxy]-ethyl}-carbamic acid 2-chloro-ethyl ester | 38% yield | ClCCOC(NCCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)OC)=O)C=1N(N=CC1)C)=O | C23H25ClN4O5
